US09029544B2
(1) (S)-3-(hydroxymethyl)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-5-ol
To a solution of 1.67 g (S)-(5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-ylmethanol in 50 ml tetrahydrofurane are added 6.8 ml of a 1 M solution of tetrabutylammonium fluoride in tetrahydrofurane. The solution is stirred for 2 hours at room temperature, then the solvent is evaporated in vacuo and the residue is redissolved in dichloromethane. After washing successively with water, saturated aqueous sodium bicarbonate and brine the organic phase is dried with sodium sulphate. The solvents are evaporated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethylacetate 3:1).

reactant | 5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-ylmethanol | [Si](C)(C)(C(C)(C)C)OC1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)CO)I | C21H36INO2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
product | (S)-3-(hydroxymethyl)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-5-ol | OCC=1C(=NC=2CC(C[C@@H](C2C1I)O)(C)C)C(C)C | C15H22INO2
